US05665718
A suspension of 3.06 g (9.22 mmol) of (S)-8-chloro-9-oxo-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2, 1-c][1,4]benzodiazepine-1-carboxylic acid hydrazide in 30 ml of N,N-dimethylformamide was treated with 1.97 g (0.0115 mol) of chloroacetic anhydride. The yellow solution obtained was stirred at room temperature for 11/2 hr. and then completely freed from the solvents. The residue was suspended in ether and filtered off under suction. The beige crystals obtained (3.75 g, m.p. 262°-264° (dec.)) were treated with 27 ml of methanesulphonic acid and 3 g of phosphorus pentoxide, whereupon the mixture was stirred at room temperature for 65 hrs. The orange-brown solution was poured into 150 ml of ice-water, made basic with aqueous sodium hydroxide solution and extracted with methylene chloride. The crystalline product was chromatographed over silica gel with ethyl acetate as the eluent. There were obtained 2.03 g (56%) of (S)-8-chloro-1-(5-chloromethyl-1,3,4-oxadiazol-2-yl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one as white crystals; m.p. 230°-232° and [a]D20 =+104.5° (DMF, c=1%).

reactant | (S)-8-chloro-9-oxo-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2, 1-c][1,4]benzodiazepine-1-carboxylic acid hydrazide | 9.22 mmol, 3.06 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)NN)CCC1)=O | C15H14ClN5O2
reactant | chloroacetic anhydride | 0.0115 mol, 1.97 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | methanesulphonic acid | 27 ml | CS(=O)(=O)O | CH4O3S
reactant | phosphorus pentoxide | 3 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | (S)-8-chloro-1-(5-chloromethyl-1,3,4-oxadiazol-2-yl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | 2.03 g, 56% | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C=3OC(=NN3)CCl)CCC1)=O | C17H13Cl2N5O2
